US04649146
To a solution of N,N-dimethylethylenediamine (0.59 ml) in pyridine (10 ml) were added phosphorus trichloride (1.3 g) and 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid (1.5 g) and the mixture was stirred at 100° C. for 5 hours. The reaction mixture was poured into water (50 ml), adjusted to pH 8 with aqueous potassium carbonate and extracted with a mixture of chloroform and tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated in vacuo to give 2-amino-4-[N-[2-(N,N-dimethylamino)ethyl]carbamoyl]-5-(4-pyridyl)thiazole (0.4 g).

reactant | N,N-dimethylethylenediamine | 0.59 ml | CN(CCN)C | C4H12N2
reactant | phosphorus trichloride | 1.3 g | P(Cl)(Cl)Cl | Cl3P
reactant | 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid | 1.5 g | NC=1SC(=C(N1)C(=O)O)C1=CC=NC=C1 | C9H7N3O2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 2-amino-4-[N-[2-(N,N-dimethylamino)ethyl]carbamoyl]-5-(4-pyridyl)thiazole | 0.4 g | NC=1SC(=C(N1)C(NCCN(C)C)=O)C1=CC=NC=C1 | C13H17N5OS
